US05446147
Methyl-5-iodo-3-methoxysalicylate (1)
The esterification of 3-methoxysalicylic acid was performed according to the literature. Bishop, J. E., et al., J. Med. Chem. 34, 1612-1624 (1991).The ester product (1.68 g, 9.20 mmol) was dissolved in methanol (35 mL). Sodium iodide (1.38 g, 9.20 mmol) and sodium hydroxide (0.34 g, 9.2 mmol) were added, and the solution was cooled to 0° C. To this solution aqueous sodium hypochlorite (17.25 g, 5% naCIO) was added dropwise. The colorless slurry mixture was stirred for 1 h at 0°-3° C., then treated with 10% aqueous sodium thiosulfite. The mixture was adjustedto pH 7 using 5% aqueous HCI. Ether (50 mL) was added and the layers were separated. The ether layer was washed with brine and dried over anhydrous sodium sulfate. After the ether was evaporated, the crude orange solid waspurified by column chromatography (silica gel, CHCI3) to obtain 1.2 g (43%) of the iodoproduct; m.p. 104° C. (lit4 110°-112° C.). The spectra were the the same as those published in the literature. Yue, E. W., et al., J. Org. Chem. 56, 5451-5456 (1991).

reactant | 3-methoxysalicylic acid | COC1=C(C(C(=O)O)=CC=C1)O | C8H8O4
reactant | Sodium iodide | 9.20 mmol, 1.38 g | [I-].[Na+]
reactant | sodium hydroxide | 9.2 mmol, 0.34 g | [OH-].[Na+]
reactant | sodium hypochlorite | 17.25 g | Cl[O-].[Na+]
reactant | sodium thiosulfite | S(=S)([O-])[O-].[Na+].[Na+]
reactant | methanol | 35 mL | CO | CH4O
solvent | Ether | 50 mL | CCOCC | C4H10O
product | Methyl-5-iodo-3-methoxysalicylate | COC(C=1C(O)=C(C=C(C1)I)OC)=O | C9H9IO4
